US06919355B2
a) 1-(4-Benzylpiperidine-1-yl)-1-(6-hydroxy-1H-indole-2-yl)methanone
A mixture of 5.0 g (28.2 mmol) of 6-hydroxy-indole-2-carboxylic acid [J. Chem. Soc. 1605-1608. (1948)], 4.4 ml (31.6 mmol) of triethylamine, 5.0 g (28.5 mmol) of 4-benzylpiperidine, 12.0 g (31.6 mmol) of HBTU (Advanced Chem. Tech.) and 50 ml of dimethylformamide is stirred at room temperature for 6 h. The precipitated product is filtered off and recrystallized from ethanol to yield 6.75 g (71%) of the title compound. Mp: 214-215° C. (ethanol).

reactant | 6-hydroxy-indole-2-carboxylic acid | 28.2 mmol, 5.0 g | OC1=CC=C2C=C(NC2=C1)C(=O)O | C9H7NO3
reactant | triethylamine | 31.6 mmol, 4.4 ml | C(C)N(CC)CC | C6H15N
reactant | 4-benzylpiperidine | 28.5 mmol, 5.0 g | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
reactant | HBTU | 31.6 mmol, 12.0 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 1-(4-Benzylpiperidine-1-yl)-1-(6-hydroxy-1H-indole-2-yl)methanone | 6.75 g, 71% | C(C1=CC=CC=C1)C1CCN(CC1)C(=O)C=1NC2=CC(=CC=C2C1)O | C21H22N2O2
